US09029544B2
4-Hydroxy-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione
10 g Ethyl 2-oxo-1,8-dioxaspiro[4.5]dec-3-ene-3-carboxylate and 6.15 g 3-amino-5,5-dimethylcyclohex-2-enone are mixed and heated to 200° C. for 20 minutes under a vacuo of 20 mbar. The mixture is cooled to room temperature and dissolved in 100 ml ethylacetate. 10 g 2,3-dichloro-5,6-dicyano-p-benzoquinone are added and the mixture is stirred for 4 hours at 50° C. and for 18 hours at room temperature. The product is isolated by filtration and washed with ethylacetate.

reactant | Ethyl 2-oxo-1,8-dioxaspiro[4.5]dec-3-ene-3-carboxylate | 10 g | O=C1OC2(C=C1C(=O)OCC)CCOCC2 | C11H14O5
reactant | 3-amino-5,5-dimethylcyclohex-2-enone | 6.15 g | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 10 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | 4-Hydroxy-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione | OC1=NC=2CC(CC(C2C2=C1C(OC21CCOCC1)=O)=O)(C)C | C17H19NO5
